* por-vth ramp-rate control -- stimulus fragment (issue #206).
*
* A parameterised copy of ../testbench/stimulus.spice's triangle wave. The
* ONLY thing that differs from the parent deck is that the two quasi-static
* ramp segments have their DURATION as an externally-supplied parameter
* (`tramp`) instead of being pinned at a fixed 4 ms, so the same corner point
* can be re-measured at several dVDD/dt values. Everything else -- the
* 0 -> 2.0 V fast pre-ramp, the 2.0 V start of the slow segment, the settled
* hold at vdd_val, the 2.0 V floor of the down-ramp, the pad loads, the DUT
* instance line -- is character-for-character the parent's.
*
* The parent deck's rail (as it stood before this issue's fix) was
*     PWL(0 0 1m 2.0 5m {vdd_val} 11m {vdd_val} 15m 2.0 17m 2.0)
* i.e. tramp = 4 ms, hold = 6 ms, tail = 2 ms. Setting tramp=4m below
* reproduces that historical deck exactly.
*
* WHY THE PARENT'S RAMP RATE WAS NOT ONE NUMBER
*
* Both slow segments traversed (vdd_val - 2.0 V) in a FIXED 4 ms, so the
* rate was (vdd_val - 2.0)/4ms = 242.5 / 325 / 407.5 V/s at 2.97 / 3.30 /
* 3.63 V. The supply axis of the parent grid was therefore also a ramp-rate
* axis, at a 1.68x ratio end to end. This fragment lets the two be
* separated: hold vdd_val and sweep tramp (rate ladder), or hold the rate
* and sweep vdd_val (rate-matched supply arm) -- see run_rate_ladder.py.
*
* `run_rate_ladder.py` supplies `tramp` as a plain numeric `.param` (no
* dVDD/dt derivation here -- the control script computes each rung's tramp
* in Python and hands it over directly, exactly as
* sim/por-brownout-slew/control/ and sim/por-glitch/control/ do for their
* own swept variable).
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* control script owns those, exactly as sim/harness/runner.py does for the
* parent deck. Parameters it supplies: vdd_val, tramp.

.param t_pre=1m
.param t_hold=6m
.param t_tail=2m
.param t1='t_pre+tramp'
.param t2='t1+t_hold'
.param t3='t2+tramp'
.param t4='t3+t_tail'

vsup vdd 0 PWL(0 0 {t_pre} 2.0 {t1} {vdd_val} {t2} {vdd_val} {t3} 2.0 {t4} 2.0)
Cpp ptat 0 1p
Cpc ctat 0 1p
Rlp ptat 0 1T
Rlc ctat 0 1T
Crn resetn 0 5p
xdut vdd 0 ptat ctat resetn temp_por_top
